US08309714B2
reacting cyclododecanone with hydroxylamine in an aqueous solution in the presence of an organic solvent (hereinafter, referred to as “oxime-formation solvent”) to produce cyclododecanone oxime (hereinafter, referred to as an “oxime-forming step”);

reactant | cyclododecanone | C1(CCCCCCCCCCC1)=O | C12H22O
reactant | hydroxylamine | NO | H3NO
product | cyclododecanone oxime | C1(CCCCCCCCCCC1)=NO | C12H23NO
